US09108966B2
A mixture of (2S,5R)-5-(N-(benzyloxy)-2-nitrophenylsulfonamido)-1-(tert-butoxycarbonyl)piperidine-2-carboxylic acid (8.56 g, 16 mmol), EDCI (3.2 g, 16 mmol), HOBt (2.2 g, 16 mmol), NH4Cl (1.7 g, 32 mmol), and DIPEA (4.0 g, 32 mmol) in dry DMF (40 mL) was stirred at rt overnight. The mixture was diluted with EtOAc (300 mL), and washed with water (3×). The organic layer was dried over Na2SO4 and concentrated to give (2S,5R)-tert-butyl 5-(N-(benzyloxy)-2-nitrophenylsulfonamido)-2-carbamoyl-piperidine-1-carboxylate as yellow solid (7.4 g, 86%). ESI-MS (EI+, m/z): 557 [M+Na]+.

reactant | (2S,5R)-5-(N-(benzyloxy)-2-nitrophenylsulfonamido)-1-(tert-butoxycarbonyl)piperidine-2-carboxylic acid | 16 mmol, 8.56 g | C(C1=CC=CC=C1)ON(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])[C@@H]1CC[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C24H29N3O9S
reactant | EDCI | 16 mmol, 3.2 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 16 mmol, 2.2 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NH4Cl | 32 mmol, 1.7 g | [NH4+].[Cl-]
reactant | DIPEA | 32 mmol, 4.0 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
product | (2S,5R)-tert-butyl 5-(N-(benzyloxy)-2-nitrophenylsulfonamido)-2-carbamoyl-piperidine-1-carboxylate | 7.4 g, 86% | C(C1=CC=CC=C1)ON(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])[C@@H]1CC[C@H](N(C1)C(=O)OC(C)(C)C)C(N)=O | C24H30N4O8S
